US09334292B2
Preparation of tert-butyl 3-(3-fluorophenyl)prop-2-ynoate
A dry, argon-filled Schlenk tube with a magnetic stirrer bar and septum is initially charged with tert-butyl prop-2-ynoate (70 mg, 0.56 mmol) in anhydrous THF (2 ml). After adding (TMP)2Zn.MgCl2 (2.2 ml, 1.2 mmol) at 25° C., the mixture is stirred for 30 min, then a solution of 1-fluoro-3-iodobenzene (160 mg, 0.72 mmol), tetrakis(triphenylphosphine)palladium(0) (33 mg, 5 mol %) in anhydrous THF (2 ml) is added dropwise and the mixture is stirred at 25° C. overnight. For workup, the mixture is diluted with aqueous sat. NH4Cl solution (30 ml) and extracted with ethyl acetate (3×30 ml). After the combined organic phases have been dried over Na2SO4, the solvent has been distilled off and purification has been effected by column chromatography on silica gel (heptane:ethyl acetate), the desired compound (91 mg, 75% of theory) was obtained as a colourless oil.

reactant | tert-butyl prop-2-ynoate | 0.56 mmol, 70 mg | C(C#C)(=O)OC(C)(C)C | C7H10O2
reactant | MgCl2 | 1.2 mmol, 2.2 ml | [Mg+2].[Cl-].[Cl-]
reactant | 1-fluoro-3-iodobenzene | 0.72 mmol, 160 mg | FC1=CC(=CC=C1)I | C6H4FI
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | NH4Cl | 30 ml | [NH4+].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 3-(3-fluorophenyl)prop-2-ynoate | 91 mg, 75% | FC=1C=C(C=CC1)C#CC(=O)OC(C)(C)C | C13H13FO2
